US05062884
2-Chloro-5-nitrocinnamic acid (Y=H, Z=COOH)
8.5 g of piperidine were added to 185.5 g (1 mole) of 2-chloro-5-nitrobenzaldehyde and 125 g (1.2 moles) of malonic acid in 400 ml of pyridine, and the mixture was stirred at 110° C. until the evolution of CO2 was complete (about 3 hours). The reaction mixture was then poured on to a mixture of 1 1 of ice and 350 ml of concentrated HCl, a yellow solid being precipitated. The product was filtered off under suction, washed with water and dried to give 220 g (97% of theory) of the above compound of melting point 193°-196° C.

reactant | piperidine | 8.5 g | N1CCCCC1 | C5H11N
reactant | 2-chloro-5-nitrobenzaldehyde | 1 mole, 185.5 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | malonic acid | 1.2 moles, 125 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | 350 ml | Cl | ClH
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-5-nitrocinnamic acid | ClC1=C(C=CC(=O)O)C=C(C=C1)[N+](=O)[O-] | C9H6ClNO4
